US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5,7-dichloro-1-benzofuran-2-carboxamide hydrochloride
227 mg (0.98 mmol) of 5,7-dichlorobenzofuran-2-carboxylic acid, 200 mg (0.98mmol) of R-3-aminoquinuclidine dihydrochloride, 449 mg (1.18 mmol) of HATU, 458 mg (3.54 mmol) of N,N-diisopropylethylamine and 2.0 ml of DMF are reacted according to the general procedure (variant B). The reaction mixture is purified by preparative HPLC. An excess of 1N hydrochloric acid is then added to the product. The solvent is removed under reduced pressure. 169 mg (46% of theory) of the title compound are isolated.

reactant | 5,7-dichlorobenzofuran-2-carboxylic acid | 0.98 mmol, 227 mg | ClC=1C=C(C2=C(C=C(O2)C(=O)O)C1)Cl | C9H4Cl2O3
reactant | HATU | 1.18 mmol, 449 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.54 mmol, 458 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5,7-dichloro-1-benzofuran-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1Cl)Cl | InChI=1S/C16H16Cl2N2O2.ClH/c17-11-5-10-6-14(22-15(10)12(18)7-11)16(21)19-13-8-20-3-1-9(13)2-4-20;/h5-7,9,13H,1-4,8H2,(H,19,21);1H/t13-;/m0./s1
